US07435823B2
Step (b) Preparation of methyl 6-((6,7-bis(methoxy)-4-quinazolinyl)oxy)-2-naphthalenecarboxylate
To a stirred mixture of NaH (200 mg, 60% in mineral oil, 5.0 mmol, Aldrich) in 10 mL of DMF at RT was added 6-hydroxy-naphthalene-2-carboxylic acid methyl ester (Step a, 675 mg, 3.34 mmol). After 20 min, 4-chloro-6,7-dimethoxy-quinazoline (750 mg, 3.34 mmol, Oakwood) was added and the reaction was heated to 60° C. for 20 min. The reaction was cooled to RT, quenched with saturated aqueous NH4Cl solution (30 mL) and extracted with CHCl3 (30 mL). The organic solution was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (30% EtOAc/hexane) to give the title compound as a white solid. MS (ESI, pos. ion) m/z: 390.9 (M+1). Mass Calc'd for C22H18N2O5: 390.12.

reactant | NaH | 5.0 mmol, 200 mg | [H-].[Na+]
reactant | 6-hydroxy-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC=C(C=C2C=C1)O | C12H10O3
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 3.34 mmol, 750 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 6-((6,7-bis(methoxy)-4-quinazolinyl)oxy)-2-naphthalenecarboxylate | COC=1C=C2C(=NC=NC2=CC1OC)OC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C22H18N2O5
